US03941795
To 8.0 g (0.0143 mole) of 4-[4-[α-(p-tert-butylphenyl) α-hydroxybenzyl]piperidino]-4'-tert-butylbutyrophenone hydrochloride dissolved in 50 ml of methanol is added with stirring a solution of 0.9 g (10% molar excess) of potassium hydroxide in methanol after which 1.54 g of potassium borohydride is added with stirring. The reaction mixture is allowed to react for about 3 hours at room temperature, after which the methanol is removed. Water is added to the remaining residue which is then extracted with ether, dried over magnesium sulfate, and filtered through celite. The filtrate is evaporated under vacuum, and the remaining solid is recrystallized several times from ethanol-water filtering while hot to give 4-[α-(p-tert-butylphenyl)-α-hydroxybenzyl]-α-(p-tert-butylphenyl)-1-piperidinebutanol, M.P. 179°-181.5°C.

reactant | 4-[4-[α-(p-tert-butylphenyl) α-hydroxybenzyl]piperidino]-4'-tert-butylbutyrophenone hydrochloride | 0.0143 mole, 8.0 g | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(C1=CC=CC=C1)(O)C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C)(C)C
reactant | potassium hydroxide | 0.9 g | [OH-].[K+]
reactant | potassium borohydride | 1.54 g | [BH4-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-[α-(p-tert-butylphenyl)-α-hydroxybenzyl]-α-(p-tert-butylphenyl)-1-piperidinebutanol | C(C)(C)(C)C1=CC=C(C=C1)C(C1=CC=CC=C1)(O)C1CCN(CC1)CCCC(O)C1=CC=C(C=C1)C(C)(C)C | C36H49NO2
